US05824691
Thionyl chloride (2.5 ml) was added dropwise in methanol (25 ml) under cooling at 7°-9° C. After the mixture was stirred for 30 minutes at the same temperature, 5-(3-methyl-1,2,4-oxadiazol-5-yl)-3-pyridinecarboxylic acid (2.5 g) was added thereto and the mixture was refluxed for 3 hours. After being cooled to room temperature, the mixture was poured into a mixture of ethyl acetate (100 ml) and water (100 ml). The organic layer was successively washed with 10% potassium carbonate aqueous solution and brine, and then dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from diethyl ether to afford methyl 5-(3-methyl-1,2,4-oxadiazol-5-yl)-3-pyridinecarboxylate (2.12 g).

reactant | Thionyl chloride | 2.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(3-methyl-1,2,4-oxadiazol-5-yl)-3-pyridinecarboxylic acid | 2.5 g | CC1=NOC(=N1)C=1C=C(C=NC1)C(=O)O | C9H7N3O3
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 100 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | methyl 5-(3-methyl-1,2,4-oxadiazol-5-yl)-3-pyridinecarboxylate | 2.12 g | CC1=NOC(=N1)C=1C=C(C=NC1)C(=O)OC | C10H9N3O3
